US04127497
U.S. Pat. No. 3,409,659 by R. L. Pruett and S. Raines teaches a modification of Bruson's addition of acrylonitrile to cyclopentadiene. By using a 4-6 molar excess of cyclopentadiene, maintaining the temperature of the reaction mass at between -5° and 0° C., and extending the addition and post-addition reaction periods, Pruett and Raines were able to obtain low yields (from 11 percent to a maximum of 30 percent) of mono-(β-cyanoethyl)cyclopentadiene.

reactant | acrylonitrile | C(C=C)#N | C3H3N
reactant | cyclopentadiene | C1=CC=CC1 | C5H6
product | mono-(β-cyanoethyl)cyclopentadiene | C(#N)CCC1C=CC=C1 | C8H9N
